L0 (net16 net17) inductor
C4 (net17 net13) capacitor
C3 (net16 net8) capacitor
C2 (VB1 net17) capacitor
C1 (VB1 net16) capacitor
C0 (net17 net16) capacitor
M4 (VDD VDD net20 VSS) nmos4
M1 (net17 net16 net22 VSS) nmos4
? Missing component
M5 (IB1 IB1 net20 VDD) pmos4
M3 (VSS net13 net22 net21) pmos4
M2 (VSS net8 net23 net21) pmos4
R1 (net13 IB1) resistor
R0 (net8 IB1) resistor
